US07932284B2
Add acetic anhydride (214 mg, 2.1 mmol) to a mixture of 4-(1-Amino-6-nitro-1H-indol-3-yl)-benzonitrile (400 mg, 1.4 mmol) and di-isopropylethylamine (194 mg, 2.1 mmol) and N,N-dimethylaminopyridine (2 mg) in DMF (20 mL) and stir for 3 h. Add additional acetic anhydride (214 mg, 2.1 mmol) and di-isopropylethylamine (194 mg, 2.1 mmol) and stir overnight. Dilute the mixture with water and extract with EtOAc. Wash the combined extracts with water and brine, and dry over MgSO4. Purify the crude residue using silica gel chromatography to give 170 mg (38% yield) of N-[3-(4-Cyano-phenyl)-6-nitro-indol-1-yl]-acetamide.

reactant | acetic anhydride | 2.1 mmol, 214 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(1-Amino-6-nitro-1H-indol-3-yl)-benzonitrile | 1.4 mmol, 400 mg | NN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C1=CC=C(C#N)C=C1 | C15H10N4O2
reactant | di-isopropylethylamine | 2.1 mmol, 194 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 2.1 mmol, 214 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | di-isopropylethylamine | 2.1 mmol, 194 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[3-(4-Cyano-phenyl)-6-nitro-indol-1-yl]-acetamide | 170 mg, 38% yield | C(#N)C1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])NC(C)=O | C17H12N4O3
